US04560685
6-Chloro-4,7-bis-(1-oxido-thiomorpholino)-2-piperazino-pteridine
This compound was prepared analogous to Example 1 from 2,6-dichloro-4,7-bis-(1-oxido-thiomorpholino)pteridine and piperazine.

reactant | 2,6-dichloro-4,7-bis-(1-oxido-thiomorpholino)pteridine | ClC1=NC2=NC(=C(N=C2C(=N1)N1CCS(CC1)=O)Cl)N1CCS(CC1)=O | C14H16Cl2N6O2S2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 6-Chloro-4,7-bis-(1-oxido-thiomorpholino)-2-piperazino-pteridine | ClC=1N=C2C(=NC(=NC2=NC1N1CCS(CC1)=O)N1CCNCC1)N1CCS(CC1)=O | C18H25ClN8O2S2
